US04695569
A mixture of 2 parts of 2-thiazolamine, 12.7 parts of 1-bromo-4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]-2-butanone, 6.4 parts of sodium carbonate and 135 parts of methylbenzene was stirred and refluxed for 3 hours using a water separator. The whole was filtered and the filtrate was evaporated. The residue was purified twice by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 0.5 parts (5.3%) of 1-[(4-fluorophenyl)methyl]-N-[1-[2-(imidazo[2,1-b]thiazol-6-yl)ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 222.7° C. (compound 149).

reactant | 2-thiazolamine | S1C(=NC=C1)N | C3H4N2S
reactant | 1-bromo-4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]-2-butanone | BrCC(CCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)=O | C23H26BrFN4O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | methylbenzene | CC1=CC=CC=C1 | C7H8
solvent | water | O | H2O
product | 1-[(4-fluorophenyl)methyl]-N-[1-[2-(imidazo[2,1-b]thiazol-6-yl)ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | 5.3% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCC=2N=C1SC=CN1C2 | C26H27FN6S
